### ISSUE TITLE
`bv_decide` gives spurious "unexpected bound variable #1"

### ISSUE THREAD

**Issue by spdskatr** [leanprover/lean4#7475]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Minimal working example:

```lean
import Std.Tactic.BVDecide

inductive Sign : Type
| Positive : Sign
| Negative : Sign
deriving DecidableEq, Repr

inductive EFixedPoint : Type
| NaN : EFixedPoint
| Infinity : Sign -> EFixedPoint
deriving DecidableEq, Repr

namespace EFixedPoint

def equal (a b : EFixedPoint) : Bool :=
  match a, b with
  | Infinity s1, Infinity s2 => s1 = s2
  | _, _ => false

theorem EFixedPoint_eq_refl (a : EFixedPoint)
    : a.equal a = true := by
  simp [EFixedPoint.equal]
  bv_decide -- unexpected bound variable #1

end EFixedPoint
```

### Context

Bit-blasting of fixed-point numbers using bv_decide.

### Steps to Reproduce

Problem is replicatable on live.lean-lang.org
1. Run the above file in release `leanprover/lean4:nightly-2025-03-12`
2. The `bv_decide` tactic will yield the error

**Expected behavior:** `bv_decide` should be able to either complete the goal or give a (possibly false) counterexample.

**Actual behavior:** Spurious `unexpected bound variable #1` error, likely internal

### Versions

version:
```
Lean 4.19.0-nightly-2025-03-12
Target: x86_64-unknown-linux-gnu
```

```
$ uname -srmo
Linux 6.13.6-arch1-1 x86_64 GNU/Linux
```

### Additional Information

I am aware that the shown MWE is pathological and unprovable by `bv_decide` - regardless, it should not give an internal error.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
